US06432993B1
5-[4-{6-[4-(2-Naphthoylamino)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy}benzyl]thiazolidine-2,4-dione (Exemplified Compound No. 1-1277)
In a similar manner to that described in Example 47, a reaction was carried out using 5-{4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride (400 mg), 2-naphthoylchloride (153 mg), triethylamine (232 mg) and anhydrous N,N-dimethylformamide (8 ml) and the reaction mixture was purified to give the title compound (337 mg).

reactant | 5-{4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | 2-naphthoylchloride | 153 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | triethylamine | 232 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 5-[4-{6-[4-(2-Naphthoylamino)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy}benzyl]thiazolidine-2,4-dione | 337 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | C36H28N4O5S
